US06429214B1
[7-(3-tert-Butoxycarbonylamino-propylcarbamoyl)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester
To a solution of 3-methoxycarbonylmethyl-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid (1.0 g, 3.8 mmol) in DMF (20 mL) at 25° C. was added 1-hydroxy-benzotriazole hydrate (HOBT) (0.565 g, 4.18 mmol). The solution was cooled to 0° C. and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (DAEC) (0.801 g, 4.18 mmol) was added. After 10 min the reaction mixture was allowed to warm to 25° C. After 2 h triethylamine (1.3 mL) was added and tert-butyl-N(3-aminopropyl)carbamate (0.66 g, 3.8 mmol) added after 30 minutes. After 20 h ethyl acetate was added and the mixture washed with 0.1 N aqueous hydrochloric acid (3×), aqueous sodium bicarbonate (3×) and brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title compound as a light brown powder. NMR (dmso-d6, 200 MHz) : δ1.4 (s, 9H, tert-butyl), 1.6 (m, 2H, CH2), 2.7-3.3 (m, 9H, CH2CHCH2, NCH2, NCH2), 3.6 (s, 3H, CH3), 6.8 (t, 1H, NH), 7.2-7.4 (m, 3H, ArH), 8.3 (t, 1H, NH), 10.3 (s, 1 H. NH).

reactant | 3-methoxycarbonylmethyl-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid | 3.8 mmol, 1.0 g | COC(=O)CC1C(NC2=CC(=CC=C2C1)C(=O)O)=O | C13H13NO5
reactant | 1-hydroxy-benzotriazole hydrate | 4.18 mmol, 0.565 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 4.18 mmol, 0.801 g | Cl.CN(CCCN=C=NCC)C
reactant | tert-butyl-N(3-aminopropyl)carbamate | 3.8 mmol, 0.66 g | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.3 mL | C(C)N(CC)CC | C6H15N
product | [7-(3-tert-Butoxycarbonylamino-propylcarbamoyl)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester | COC(CC1C(NC2=CC(=CC=C2C1)C(NCCCNC(=O)OC(C)(C)C)=O)=O)=O | C21H29N3O6
